US04183924
F. 17α-(2',4'-Dichlorobenzylthio)-1,4-Androstadiene-3,11-Dione
To 1.04 gm. of sodium metal dissolved in 80 ml. of ethanol is added 5.55 ml. of 2,4-dichlorobenzylmercaptan followed by 1.5 gm. of 17β-methanesulfonyloxy-1,4-androstadiene-3,11-dione. Heat at reflux for 76 hours under an atmosphere of nitrogen. In a manner similar to that described in Example 1E, isolate the title compound.

reactant | sodium | [Na] | Na
reactant | 2,4-dichlorobenzylmercaptan | ClC1=C(CS)C=CC(=C1)Cl | C7H6Cl2S
reactant | 17β-methanesulfonyloxy-1,4-androstadiene-3,11-dione | CS(=O)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1C(C2)=O)=O | C20H26O5S
solvent | ethanol | C(C)O | C2H6O
product | 17α-(2',4'-Dichlorobenzylthio)-1,4-Androstadiene-3,11-Dione | ClC1=C(CS[C@H]2[C@]3(C)[C@@H](CC2)[C@@H]2CCC4=CC(C=C[C@]4(C)[C@H]2C(C3)=O)=O)C=CC(=C1)Cl | C26H28Cl2O2S
